US08686024B2
(2) Synthesis of 1-acetyl-3,3-dimethylindolin-5-ol
A solution of N-(4-methoxyphenyl)-N-(2-methylallyl)acetamide (1.00 g, 4.56 mmol) and aluminium chloride (2.0 g, 15.0 mmol) in 1.0 mL of chlorobenzene was stirred at 110° C. for 3 h. After the reaction mixture was cooled to 0° C., the reaction mixture was diluted with water and ethyl acetate. The separated organic layer was washed with 1 M HCl, saturated NaHCO3 aqueous solution and brine, successively, and dried over MgSO4. After filtration, the filtrate was concentrated in vacuo, and the residue was purified by silica gel column chromatography (hexane/ethyl acetate=70/30 to 20/80) to obtain the title compound (0.31 g, 33%), and followed by recrystallization (hexane/ethyl acetate) to obtain the title compound (0.17 g) as a white solid.

reactant | N-(4-methoxyphenyl)-N-(2-methylallyl)acetamide | 4.56 mmol, 1.00 g | COC1=CC=C(C=C1)N(C(C)=O)CC(=C)C | C13H17NO2
reactant | aluminium chloride | 15.0 mmol, 2.0 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | chlorobenzene | 1.0 mL | ClC1=CC=CC=C1 | C6H5Cl
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-acetyl-3,3-dimethylindolin-5-ol | 0.31 g, 33% | C(C)(=O)N1CC(C2=CC(=CC=C12)O)(C)C | C12H15NO2
